US07169761B2
A 1.0 M THF solution of tetrabutylammonium fluoride (3.8 ml) was added to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-([[t-butyl(diphenyl)silyl]oxy]methyl) phenyl]-D-glucitol (1.7 g) in THF (10.0 ml) at room temperature and the mixture was stirred for two hours. 10% aqueous solution of sodium hydroxide (3.0 ml) was further added to the reaction mixture and the mixture was refluxed with stirring for one hour. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)phenyl]-D-glucitol (0.7 g).

reactant | tetrabutylammonium fluoride | 3.8 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-([[t-butyl(diphenyl)silyl]oxy]methyl) phenyl]-D-glucitol | 1.7 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C57H60O6Si
reactant | sodium hydroxide | 3.0 ml | [OH-].[Na+]
reactant | Water | O | H2O
solvent | THF | 10.0 ml | C1CCOC1 | C4H8O
solvent | THF | 1.0 M | C1CCOC1 | C4H8O
product | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-(hydroxymethyl)phenyl]-D-glucitol | 0.7 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC=C1)CO | C41H42O6
